US08247403B2
(2) 9-(cyclopenta-1-en-1-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-(1-hydroxycyclopentyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (30.0 mg, 0.0899 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (18.0 mg, 79.3%) as a solid.

reactant | tert-butyl 9-(1-hydroxycyclopentyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.0899 mmol, 30.0 mg | OC1(CCCC1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C19H27NO4
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 9-(cyclopenta-1-en-1-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 18.0 mg, 79.3% | Cl.C1(=CCCC1)C1=CC=CC=2CNCCOC21 | InChI=1S/C14H17NO.ClH/c1-2-5-11(4-1)13-7-3-6-12-10-15-8-9-16-14(12)13;/h3-4,6-7,15H,1-2,5,8-10H2;1H
